US07714010B2
c) 3-(1-Methyl-1H-imidazol-2-yl)-propionic acid
3-(1-Methyl-1H-imidazol-2-yl)-propionic acid methyl ester (0.87 g) is treated with hydrochloric acid (6 N; 5 ml) at RT for 20 h. After evaporation of the solvent the compound (0.86 g) is obtained as hydrochloric salt.

reactant | 3-(1-Methyl-1H-imidazol-2-yl)-propionic acid methyl ester | 0.87 g | COC(CCC=1N(C=CN1)C)=O | C8H12N2O2
reactant | hydrochloric acid | 6 N, 5 ml | Cl | ClH
product | 3-(1-Methyl-1H-imidazol-2-yl)-propionic acid | CN1C(=NC=C1)CCC(=O)O | C7H10N2O2
